************************************************************************
* auCdl Netlist:
* 
* Library Name:  TIGFET10nm
* Top Cell Name: G4_MUX2_N3
* View Name:     schematic
* Netlisted on:  Mar 15 11:32:34 2022
************************************************************************

.INCLUDE  ~/TIGFET-10nm-PDK/calibre/tigfet.sp
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: TIGFET10nm
* Cell Name:    G4_MUX2_N3
* View Name:    schematic
************************************************************************

.SUBCKT G4_MUX2_N3 A B SEL Vdd Vss Z
*.PININFO A:I B:I SEL:I Z:O Vdd:B Vss:B
XI17 ZI Vdd SELI B Vss / TIGFET_PCELL_SP15CP15_N3
XI16 ZI Vdd SEL A Vss / TIGFET_PCELL_SP15CP15_N3
XI15 ZI Vss SEL B Vdd / TIGFET_PCELL_SP15CP15_N3
XI14 ZI Vss SELI A Vdd / TIGFET_PCELL_SP15CP15_N3
XI13 SELI Vss SEL Vss Vdd / TIGFET_PCELL_SP15CP15_N3
XI12 SELI Vdd SEL Vdd Vss / TIGFET_PCELL_SP15CP15_N3
XI6 Z Vss ZI Vss Vdd / TIGFET_PCELL_SP15CP15_N3
XI5 Z Vdd ZI Vdd Vss / TIGFET_PCELL_SP15CP15_N3
.ENDS

